US04604399
A mixture containing 38.2 g of 5-methyl-1,6-naphthyridin-2(1H)-one-6-oxide hydrochloride and 300 ml of acetic anhydride was refluxed with stirring on a steam bath for 48 hours and then the reaction mixture was cooled to room temperature. The separated product was collected, recrystallized from dimethylformamide and dried in vacuo at 80° C. to produce 10.5 g of 5-[(acetyloxy)methyl]-1,6-naphthyridin-2(1H)-one as its hydrochloride, m.p. 162°-165° C. with decomposition.

reactant | 5-methyl-1,6-naphthyridin-2(1H)-one-6-oxide hydrochloride | 38.2 g | Cl.CC1=C2C=CC(NC2=CC=[N+]1[O-])=O
reactant | acetic anhydride | 300 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 5-[(acetyloxy)methyl]-1,6-naphthyridin-2(1H)-one | 10.5 g | C(C)(=O)OCC1=C2C=CC(NC2=CC=N1)=O | C11H10N2O3
